US05387685
α-(3,4-Dimethoxyphenyl)-1,3-dihydro-α-[(4-methylphenyl)thio]-1,3-dioxo-2H-isoindole-2-heptanenitrile
A mixture of 6.12 g of α-(5-iodopentyl)-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile and 2.22 g of potassium phthalimide and 50 mL of N,N-dimethylformamide is heated on a steam bath for 2 hours. The reaction solution is concentrated in vacuo and the residue is distributed between diethyl ether-water, with agitation. The organic layer is washed with 1N sodium hydroxide, followed by aqueous potassium bicarbonate. The solution is dried (sodium sulfate), and the volatiles removed in vacuo. Chromatography on silica gel, with gradient elution progressing from hexane to chloroform to methyl alcohol, affords 4.77 g of the desired product as a fluorescent oil.

reactant | α-(5-iodopentyl)-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile | 6.12 g | ICCCCCC(C#N)(C1=CC(=C(C=C1)OC)OC)SC1=CC=C(C=C1)C | C22H26INO2S
reactant | potassium phthalimide | 2.22 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | α-(3,4-Dimethoxyphenyl)-1,3-dihydro-α-[(4-methylphenyl)thio]-1,3-dioxo-2H-isoindole-2-heptanenitrile | 4.77 g | COC=1C=C(C=CC1OC)C(C#N)(CCCCCN1C(C2=CC=CC=C2C1=O)=O)SC1=CC=C(C=C1)C | C30H30N2O4S
